### ISSUE TITLE
Proof obligation for `Lift.bind ` in `src/Bluebell/ProbabilityTheory/Coupling.lean`

### ISSUE THREAD

**Issue by alexanderlhicks** [Verified-zkEVM/iris-lean#35]
A proof in `src/Bluebell/ProbabilityTheory/Coupling.lean` contains a `sorry`.

**Goal:** Replace the `sorry` with a complete proof.

[Link to the sorry on GitHub](https://github.com/Verified-zkEVM/iris-lean/blob/master/src/Bluebell/ProbabilityTheory/Coupling.lean#L255)

**Code Snippet:**
```lean
theorem Lift.bind {p : SPMF α} {q : SPMF β} {R : Set (α × β)}
    (hpq : Lift p R q)
    (F : α → SPMF γ) (G : β → SPMF δ)
    (hpt : ∀ a b, (a, b) ∈ R → Lift (F a) (Set.univ : Set (γ × δ)) (G b)) :
    Lift (p >>= F) (Set.univ : Set (γ × δ)) (q >>= G) := by
  -- Build pointwise couplings via `IsCoupling.exists_bind` and combine them.
  rcases hpq with ⟨c, hc, hR⟩
  rcases (IsCoupling.exists_bind (c := ⟨c, hc⟩)
    (f := F) (g := G)
    (h := fun a b => by
      classical
      rcases hpt a b (by simp [IsCoupling.supports] at hR; apply hR; sorry) with ⟨d, hd, _⟩
```
